US09108969B2
Step B: Preparation of tert-Butyl 2-(7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of tert-butyl 2-(9-iodo-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.778 g, 1.236 mmol) in THF (12.3 mL) under nitrogen was added 2 M solution of dimethylzinc (1.854 mL, 3.71 mmol), followed by bis(tri-t-butylphosphine)Pd(0) (0.057 g, 0.111 mmol). The reaction was stirred overnight, slowly quenched with saturated NaHCO3, diluted with EtOAc, and filtered through Celite®. The organics were washed with water (twice), brine, dried over MgSO4, and filtered. The solvent was removed under vacuum. The residue was purified by silica gel column chromatography to give the title compound as a solid (0.366 g). LCMS m/z=518.6 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.28 (d, J=5.94 Hz, 6H), 1.38 (s, 9H), 2.15 (s, 3H), 2.19-2.30 (m, 1H), 2.43-2.48 (m, 1H), 2.69-2.81 (m, 2H), 3.54-3.64 (m, 1H), 3.86-3.96 (m, 1H), 3.98-4.07 (m, 1H), 4.73-4.84 (m, 1H), 5.07 (s, 2H), 6.74 (dd, J=8.65, 2.34 Hz, 1H), 7.00 (d, J=2.27 Hz, 1H), 7.13 (d, J=8.72 Hz, 1H), 7.29 (d, J=9.35 Hz, 1H), 7.64-7.71 (m, 2H).

reactant | tert-butyl 2-(9-iodo-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 1.236 mmol, 0.778 g | IC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CCC2CC(=O)OC(C)(C)C | C28H31F3INO4
reactant | dimethylzinc | 3.71 mmol, 1.854 mL | C[Zn]C
solvent | THF | 12.3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(7-(4-Isopropoxy-3-(trifluoromethyl)benzyloxy)-9-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.366 g | C(C)(C)OC1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C)C=C1)C(F)(F)F | C29H34F3NO4
